US07572820B2
D. 5-Bromo-4-chloro-2-ethyl-1-(2,2,2-trifluoroethyl)-1H-benzimidazole
5-Bromo-4-chloro-2-ethyl-1H-benzimidazole (0.049 g, 0.188 mmol), trifluoroethyl triflate (0.065 g, 0.282 mmol), and Cs2CO3 (0.092 g, 0.282 mmol) were combined in DMF (5 mL) and the resulting solution was heated to 90° C. for 30 min. The reaction mixture was partitioned between H2O and Et2O and further extracted with Et2O. The combined organic portions were washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. Chromatography (SiO2, EtOAc/hexanes) allowed separation of the regioisomers. 0.083 g of desired regioisomer was isolated: 1NMR (400 MHz, CDCl3) δ 7.5 (d, J=8.5 Hz, 1H), 7.2 (d, J=8.5 Hz, 1H), 4.6 (q, J=8.3 Hz, 2H), 2.9 (q, J=7.4 Hz, 2H), 1.45 (t, J=7.4 Hz, 3H); MS (ESI) m/z 343 (M+1).

reactant | 5-Bromo-4-chloro-2-ethyl-1H-benzimidazole | 0.188 mmol, 0.049 g | BrC1=C(C2=C(NC(=N2)CC)C=C1)Cl | C9H8BrClN2
reactant | trifluoroethyl triflate | 0.282 mmol, 0.065 g | O(S(=O)(=O)C(F)(F)F)CC(F)(F)F | C3H2F6O3S
reactant | Cs2CO3 | 0.282 mmol, 0.092 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-4-chloro-2-ethyl-1-(2,2,2-trifluoroethyl)-1H-benzimidazole | BrC1=C(C2=C(N(C(=N2)CC)CC(F)(F)F)C=C1)Cl | C11H9BrClF3N2
